US07304081B2
Step 1: Synthesis of N-(tert-butyl)benzenesulfonamide
To a solution of benzenesulfonyl chloride (722 μL, 0.00566 mol), potassium carbonate (0.939 g, 0.00679 mol) in acetonitrile (15 mL, 0.29 mol) was added tert-butylamine (0.652 mL, 0.00623 mol). The resulting mixture was stirred at r.t. for 30 minutes, followed by filtration and concentration. The resulting residue was diluted with ethyl acetate, and the resulting solution was washed with water then with brine, then dried with MgSO4 followed by concentration. The crude material was purified by flash chromatography on silica gel with 40% AcOEt in hexanes to give the desired compound (1.21 g, 85% yield). MS (ESI): 236.0 (M+Na+).

reactant | benzenesulfonyl chloride | 0.00566 mol, 722 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | potassium carbonate | 0.00679 mol, 0.939 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 0.29 mol, 15 mL | C(C)#N | C2H3N
reactant | tert-butylamine | 0.00623 mol, 0.652 mL | C(C)(C)(C)N | C4H11N
product | N-(tert-butyl)benzenesulfonamide | 1.21 g, 85% yield | C(C)(C)(C)NS(=O)(=O)C1=CC=CC=C1 | C10H15NO2S
